US05866568
A solution of sodium hydroxide (175 g) in water (800 ml) was added to a solution of diethyl (4-bromophenyl)methylmalonate (150 g) in ethanol (850 ml) and the mixture was heated under reflux for 9 hours. Volatile material was removed by evaporation and the residue was dissolved in a solution of sodium hydroxide (130 g) in water (250 ml). The solution was heated under reflux for 2.5 hours, filtered through a bed of diatomaceous earth and the filtrate was acidified with 6M sulphuric acid. The mixture was extracted with ether (4×500 ml) and the extracts were dried (MgSO4). The solution was concentrated and the residue was heated at 200° C. until evolution of carbon dioxide ceased. The residue was dissolved in 1M sodium hydroxide solution (500 ml) and the solution was acidified with 6M sulphuric acid. The mixture was extracted with ether (4×500 ml) and the extracts were dried (MgSO4). The solvent material was removed by evaporation to give 3-(4-bromophenyl)-2-methylpropionic acid (91 g), m.p. 72°-73° C.; 1H NMR (d6 -DMSO): 1.0 (d, 3 H), 2.05-2.15 (m, 2 H), 2.85-2.9 (m, 1 H), 7.1 (d, 2 H), 7.4 (d, 2 H).

reactant | sodium hydroxide | 175 g | [OH-].[Na+]
reactant | diethyl (4-bromophenyl)methylmalonate | 150 g | BrC1=CC=C(C=C1)CC(C(=O)OCC)C(=O)OCC | C14H17BrO4
solvent | water | 800 ml | O | H2O
solvent | ethanol | 850 ml | C(C)O | C2H6O
product | 3-(4-bromophenyl)-2-methylpropionic acid | 91 g | BrC1=CC=C(C=C1)CC(C(=O)O)C | C10H11BrO2
